US07163947B2
A solution of N-(3-{[4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]amino}propyl)acetamide (0.220 g, 0.617 mmol) in 15 mL of TFA was treated with platinum (IV) oxide (0.140 g, 0.617 mmol). The mixture was placed under an atmosphere of hydrogen (3.8×105 Pa) and shaken at ambient temperature. After 18 h, the reaction mixture was diluted with CHCl3 (15 mL) and filtered through a pad of CELITE filter agent and rinsed with several portions of CHCl3 (1% TFA). The filtrate was concentrated under reduced pressure to yield an off-white oil. The oil was suspended in a minimum amount of H2O and treated with 50% NaOH solution until the pH of the liquid was 12–13. The mixture was extracted with CH2Cl2 (3×15 mL). The combined organic extracts were washed with brine (15 mL), dried over Na2SO4, filtered and concentrated under reduced pressure to yield an off-white solid. The solid was purified by chromatography (SiO2, 15–20% (80:18:2 CHCl3:MeOH:NH4OH) in CHCl3) to yield a white solid. The solid was recrystallized from MeCN to yield N-(3-{[4-amino-2-(ethoxymethyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-1-yl]amino}propyl)acetamide (0.0633 g) as white crystals. mp 198–200° C.; 1H NMR (500 MHz, DMSO-d6) δ 7.80 (t, J=5.0 Hz, 1H), 6.30 (t, J=6.0 Hz, 1H), 5.78 (s, 2H), 4.61 s, 2H), 3.55 (q, J=7.0 Hz, 2H), 3.12 (q, J=6.7 Hz, 2H), 3.05–3.01 (m, 4H), 2.66 (t, J=5.9 Hz, 2H), 1.78–1.73 (m, 7H), 1.62 (p, J=7.1 Hz, 2H), 1.14 (t, J=7.0 Hz, 3H); 13C NMR (125 MHz DMSO-d6) δ 169.4, 149.9, 149.3, 147.1, 137.6, 122.7, 105.5, 65.7, 63.4, 51.6, 36.8, 32.5, 27.9, 23.9, 23.0, 23.0, 22.5, 15.3; MS (APCI) m/z 361 (M+H)+; Anal. Calcd for C18H28N6O2: C, 59.98; H, 7.83; N, 23.31;

reactant | N-(3-{[4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]amino}propyl)acetamide | 0.617 mmol, 0.220 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2NCCCNC(C)=O)COCC | C18H24N6O2
reactant | H2O | O | H2O
reactant | NaOH | [OH-].[Na+]
solvent | TFA | 15 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CHCl3 | 15 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | platinum (IV) oxide | 0.617 mmol, 0.140 g | [Pt](=O)=O
product | N-(3-{[4-amino-2-(ethoxymethyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-1-yl]amino}propyl)acetamide | 0.0633 g | NC1=NC=2CCCCC2C2=C1N=C(N2NCCCNC(C)=O)COCC | C18H28N6O2
